US04150134
3-(2-dimethylaminoethoxy)-10-benzyl-9(10H)-acridinone [IV; R' is C6H5CH2, R" is H, --O--Y--N=Z is 3--O--CH2CH2N(CH3)2 ], m.p. 134°-136° C. (light yellow powder). The intermediate 3-chloro-10-benzyl-9(10H)-acridinone, m.p. 186°-190° C. (yellow crystals) was prepared from 3-chloro-9(10H)-acridinone and benzyl bromide with sodium hydride in dimethylformamide.

reactant | 3-(2-dimethylaminoethoxy)-10-benzyl-9(10H)-acridinone | CN(CCOC=1C=CC=2C(C3=CC=CC=C3N(C2C1)CC1=CC=CC=C1)=O)C | C24H24N2O2
reactant | 3-chloro-9(10H)-acridinone | ClC=1C=CC=2C(C3=CC=CC=C3NC2C1)=O | C13H8ClNO
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
reactant | sodium hydride | [H-].[Na+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 3-chloro-10-benzyl-9(10H)-acridinone | ClC=1C=CC=2C(C3=CC=CC=C3N(C2C1)CC1=CC=CC=C1)=O | C20H14ClNO
